US05102781
5-Chloro-2-(methylthio)benzothiazole
3-Methyl-1-phenylpyrazolin-5-one (1.045 g) was mixed with 2.03 g (0.006 mol) 2-methylthio-5-chloro-3-(3'-sulfopropyl)benzothiazolium, inner salt in 50 ml methanol. Triethylamine (0.62 g) was added. The mixture was stirred for one hour, the solvent evaporated, and the residue dissolved in isopropanol. The resulting solution was treated with 0.6 g KOAc in methanol to precipitate the dye. Filtering yielded 2.17 g (72%), mp 271°-276° C., λmax=383 (ε=19,000).

reactant | 3-Methyl-1-phenylpyrazolin-5-one | 1.045 g | CC=1NN(C(C1)=O)C1=CC=CC=C1 | C10H10N2O
reactant | 2-methylthio-5-chloro-3-(3'-sulfopropyl)benzothiazolium | 0.006 mol, 2.03 g | CSC=1SC2=C([N+]1CCCS(=O)(=O)O)C=C(C=C2)Cl
reactant | Triethylamine | 0.62 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 50 ml | CO | CH4O
product | 5-Chloro-2-(methylthio)benzothiazole | ClC=1C=CC2=C(N=C(S2)SC)C1 | C8H6ClNS2
